US08097613B2
4-Fluorobenzaldehyde (0.287 mL, 2.68 mmol), sodium acetate (0.439 g, 5.35 mmol), powdered/activated 4 Å molecular sieves (0.72 g) and sodium cyanoborohydride (0.336 g, 5.35 mmol) were added sequentially to a solution of racemic 3-amino-hexanoic acid ethyl ester hydrochloride (0.524 g, 2.68 mmol) in methanol (10 mL) at 25° C. The mixture was stirred at 25° C. for 2 h, and then was filtered through Celite. The Celite was washed with ethyl acetate (2×30 mL) and the combined filtrate and washings were partitioned between half-saturated aqueous sodium bicarbonate solution (150 mL) and ethyl acetate (2×150 mL). The combined organic layers were dried over sodium sulfate and were concentrated in vacuo. The residue was purified by flash column chromatography (Teledyne Isco RediSep column; 10-80% ethyl acetate in hexanes) to afford rac-3-(4-fluoro-benzylamino)-hexanoic acid ethyl ester (0.43 g, 1.61 mmol, 60%) as a colorless oil.

reactant | 4-Fluorobenzaldehyde | 2.68 mmol, 0.287 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium acetate | 5.35 mmol, 0.439 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 5.35 mmol, 0.336 g | C(#N)[BH3-].[Na+]
reactant | racemic 3-amino-hexanoic acid ethyl ester hydrochloride | 2.68 mmol, 0.524 g | Cl.C(C)OC(CC(CCC)N)=O
solvent | methanol | 10 mL | CO | CH4O
product | rac-3-(4-fluoro-benzylamino)-hexanoic acid ethyl ester | 1.61 mmol, 0.43 g, 60% | C(C)OC(CC(CCC)NCC1=CC=C(C=C1)F)=O | C15H22FNO2
